US06426354B1
80 mL (0.67 mmol) of PBr3 is added slowly to a solution of 104 mg (0.57 mmol) of (4-methyl-2-phenyl-oxazol-5-yl)-methanol in 0.5 mL of Et2O and 1.5 mL of CH2Cl2 at 0° C. The coolin bath is removed, and the reaction mixture is stirred for 4 h. The reaction mixture is then partitioned between saturated aqueous NaHCO3 solution and Et2O. The organic phase is separated and washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to produce 5-bromomethyl-4-methyl-2-phenyl-oxazole as a solid; 1H NMR (250 MHz, CDCl3) δ7.90-7.99 (m, 2H), 7.32-7.40 (m, 3H), 4.50 (s, 2H), 2.16 (s, 3H).

reactant | PBr3 | 0.67 mmol, 80 mL | P(Br)(Br)Br | Br3P
reactant | (4-methyl-2-phenyl-oxazol-5-yl)-methanol | 0.57 mmol, 104 mg | CC=1N=C(OC1CO)C1=CC=CC=C1 | C11H11NO2
solvent | Et2O | 0.5 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 5-bromomethyl-4-methyl-2-phenyl-oxazole | BrCC1=C(N=C(O1)C1=CC=CC=C1)C | C11H10BrNO
